US06403620B1
2-Bromo-4-[(4-methoxy)phenyl]thiazole-5-carboxylic acid
To a solution of 2-bromo-4-[(4-methoxy)phenyl]-5-(methoxycarbonyl)thiazole (6.24 g, 19.74 mmol) in 20 mL of methanol and 20 mL of water was added lithium hydroxide monohydrate (0.91 g, 21.7 mmol). The mixture was stirred at ambient temperature for 1 h, whereupon aditional lithium hydroxide monohydrate (0.91 g, 21.7 mmol) was added. After stirring an additional hour, the volatiles were removed in vacuo and the residue was quenched with 10% aq HCl. The mixture was extracted with ethyl acetate and the organics were washed with brine, dried (MgSO4) and concentrated. The residue was recrystallized from chloroform/hexane to afford 2.2 g (37%) of the title compound as a white solid. LRMS (ES−): 303 (M−H)−.

reactant | 2-bromo-4-[(4-methoxy)phenyl]-5-(methoxycarbonyl)thiazole | 19.74 mmol, 6.24 g | BrC=1SC(=C(N1)C1=CC=C(C=C1)OC)C(=O)OC | C12H10BrNO3S
reactant | lithium hydroxide monohydrate | 21.7 mmol, 0.91 g | O.[OH-].[Li+]
reactant | lithium hydroxide monohydrate | 21.7 mmol, 0.91 g | O.[OH-].[Li+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 2-Bromo-4-[(4-methoxy)phenyl]thiazole-5-carboxylic acid | 2.2 g, 37% | BrC=1SC(=C(N1)C1=CC=C(C=C1)OC)C(=O)O | C11H8BrNO3S
